US05789406
The preparation is carried out as in Example 12, from 5 g of 5-phenylvaleric acid, 2.5 ml of thionyl chloride, 60 ml of dichloromethane, 1 g of 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one and 75 ml of dimethylformamide. After refluxing for 7 hours, the insoluble material is filtered and recrystallized from dimethylformamide. After filtration, washing with water and drying under reduced pressure (1 mm Hg, 0.13 kPa) at 80° C., there is obtained 0.58 g of 8-(5-phenylvalerylamino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one in the form of a yellow solid which decomposes at 170° C. (Analysis C24H22N4O2.0.41DMF, % calculated C: 72.34, H: 5.56, N: 14.06, % found C: 72.0, H: 5.6, N: 13.8).

reactant | 5-phenylvaleric acid | 5 g | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
reactant | thionyl chloride | 2.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
reactant | 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 1 g | NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1 | C13H10N4O
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 5-phenylvalerylamino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | C1(=CC=CC=C1)CCCCC(=O)NC1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C24H22N4O2
